Schmidt et al. 2018 CCP and matching network reproduction
* Generated file. SI units are used throughout.
.param freq=1.3560000000000000e+07
.param te_ev=4.7492937226762413e+00
.param veps=5.0000000000000003e-02
.param vcap=5.0000000000000003e-02
.param cscale=5.8620000000000005e-01
.param ksh1=3.5327614409870090e-19
.param ksh2=3.1794852968883081e-18
.param iesat1=2.9095837129930500e+00
.param iesat2=8.7287511389791508e+00
.func spos(x,d) {(x > 0) ? 0.5*(x+sqrt(x*x+d*d)) : 0.5*d*d/(sqrt(x*x+d*d)-x)}

* The paper specifies V0*cos(omega*t); ngspice SIN uses a phase in degrees.
Vrf src 0 SIN(0 1.0000000000000000e+02 {freq} 0 0 9.0000000000000000e+01)
Rrf src generator_sense 5.0000000000000000e+01
Vsense_generator generator_sense match 0
Vsense_match_shunt match match_shunt 0
Cmatch1 match_shunt 0 1.5500000000000000e-09
Cmatch2 match series_c 1.7499999999999999e-10
Lmatch series_c load_sense 1.5000000000000000e-06
Vsense_load load_sense match_loss_in 0
* Figure 1 places Rm before the plasma/stray split; it therefore carries I_L.
Rmatch match_loss_in load 5.0000000000000000e-01
Vsense_plasma load plasma 0
Vsense_stray load stray_top 0
Cstray stray_top stray_mid 2.0000000000000001e-10
Rstray stray_mid 0 5.0000000000000000e-01

* Powered-electrode sheath: conventional electron and ion currents oppose.
Csh1 plasma bulk1 C='cscale*sqrt(ksh1/sqrt(v(bulk1,plasma)*v(bulk1,plasma)+vcap*vcap))'
Belectron1 plasma bulk1 I='iesat1*exp(-spos(v(bulk1,plasma),veps)/te_ev)'
Iion1 bulk1 plasma DC 6.7566780916059116e-03

Vsense_bulk bulk1 bulk_sense 0
Lplasma bulk_sense bulk_mid 1.6244931020023193e-07
Rplasma bulk_mid bulk2 9.6907121134711574e+00

* Grounded-electrode sheath. Vs2 is v(bulk2).
Csh2 bulk2 0 C='cscale*sqrt(ksh2/sqrt(v(bulk2)*v(bulk2)+vcap*vcap))'
Belectron2 0 bulk2 I='iesat2*exp(-spos(v(bulk2),veps)/te_ev)'
Iion2 bulk2 0 DC 2.0270034274817734e-02

.ic v(plasma)=0 v(bulk1)=2.8805577445842822e+01 v(bulk2)=2.8805577445842822e+01 v(bulk_mid)=2.8805577445842822e+01 v(bulk_sense)=2.8805577445842822e+01
.options method=gear maxord=2 reltol=9.9999999999999995e-07 abstol=1.0000000000000001e-09 vntol=9.9999999999999995e-08

.control
set noaskquit
set wr_singlescale
set wr_vecnames
option numdgt=15
tran 3.0727630285152412e-10 2.2123893805309735e-05 2.0353982300884957e-05 3.0727630285152412e-10 uic
wrdata waveforms.dat v(src) v(match) v(load_sense) v(plasma) v(bulk1,plasma) v(bulk2) i(Vsense_generator) i(Vsense_load) i(Vsense_match_shunt) i(Vsense_stray) i(Vsense_plasma) i(Vsense_bulk)
quit
.endc
.end
